US03933811
To 27.0 g. of 2-pyrimidinecarboxaldehyde and 11.3 g. of dimethylamine (neutralized with hydrochloric acid) is added, with stirring and cooling, 17.9 g. of potassium cyanide in a small amount of water. The mixture is allowed to stand overnight and ether is added. Concentrating and distilling the residue gives 2-dimethylamino-2-(2-pyrimidyl)acetonitrile.

reactant | 2-pyrimidinecarboxaldehyde | N1=C(N=CC=C1)C=O | C5H4N2O
reactant | dimethylamine | CNC | C2H7N
reactant | potassium cyanide | [C-]#N.[K+]
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-dimethylamino-2-(2-pyrimidyl)acetonitrile | CN(C(C#N)C1=NC=CC=N1)C | C8H10N4
